US04649150
2-Methyl-4-(3-methyl-4-nitro-phenyl)-1H-imidazole
2-Methyl-4-(3-methyl-phenyl)-1H-imidazole nitrate (15 g) was added portionwise to 96% sulfuric acid (40 ml) at room temperature. The resulting solution was heated at 90° C. for one hour, cooled, diluted with water (200 ml) and neutralized with aqueous sodium carbonate. The solid which separated out was filtered off, and the filtrate was made strongly alkaline with 10% sodium hydroxide. The base which precipitated was filtered off and dried to give 5 g of the title compound sufficiently pure to be used in the next step.

reactant | 2-Methyl-4-(3-methyl-phenyl)-1H-imidazole nitrate | 15 g | [N+](=O)(O)[O-].CC=1NC=C(N1)C1=CC(=CC=C1)C
reactant | sulfuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-Methyl-4-(3-methyl-4-nitro-phenyl)-1H-imidazole | 5 g | CC=1NC=C(N1)C1=CC(=C(C=C1)[N+](=O)[O-])C | C11H11N3O2
